US05986029
A 250 ml roundboftom flask equipped with a condenser, stirrer, thermometer and dropping funnel with nitrogen inlet was charged with 50 ml diethyl ether in which di-n-butylamine (3.8 g, 27 mmol) was dissolved. The solution was cooled to 0° C. and n-butyllithium (26 mmol, 1.6 M in hexane) was added; the solution was stirred for 2 hours at 2° C. and 30 minutes ar room temperature. The solution was then cooled to -90° C. and tetramethylcyclopentadienyl-dimethylsilylchloride (5.7 g, 27 mmol) was added in one portion. The mixture was then stirred for 16 hours allowing the temperature of the reaction mixture to rise to room temperature. A precipitate was filtered off and the solvent was evaporated. The remaining residue was distilled at sub-atmospheric pressure (2.7 mbar) at 130° C. to obtain di-n-butylamino-dimethylsilyl-tetramethylcyclopentadiene (3.4 g). The product was characterized by GC, GC-MS, 13C and 1H NMR.

reactant | di-n-butylamine | 27 mmol, 3.8 g | C(CCC)NCCCC | C8H19N
reactant | n-butyllithium | 26 mmol, 1.6 M | C(CCC)[Li]
reactant | tetramethylcyclopentadienyl-dimethylsilylchloride | 27 mmol, 5.7 g | CC1=C(C(=C(C1[Si](C)(C)Cl)C)C)C | C11H19ClSi
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | di-n-butylamino-dimethylsilyl-tetramethylcyclopentadiene | 3.4 g | C(CCC)N(CCCC)C1(C(=C(C(=C1C)C)C)C)[SiH](C)C | C19H37NSi
